US05840732
Synthesis of 3-[2-(imidazo[1,2-a]pyridin-5-yl)ethyl]thiazolidine-2,4-dione
To a suspension of 4.0 g (24.7 mmol) of 5-(2-hydroxyethyl)imidazo[1,2-a]pyridine in 30 ml of chloroform, 5 ml (68 mmol) of thionyl chloride was added. After refluxing for 2 hours, the solvent was distilled off. To a suspension of the residue and 8.36 g (60 mmol) of 2,4-thiazolidinedione sodium salt in 50 ml of N,N-dimethylformamide, 3.75 g (25 mmol) of sodium iodide was added, followed by stirring at 80° C. for 16 hours. After the reaction mixture was cooled, water was added. The reaction mixture was then extracted with ethyl acetate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent: n-hexane/ethyl acetate=2/1→1/1→1/4) to yield 1.00 g (15.5%, light orange powder) of the desired product.

reactant | 5-(2-hydroxyethyl)imidazo[1,2-a]pyridine | 24.7 mmol, 4.0 g | OCCC1=CC=CC=2N1C=CN2 | C9H10N2O
reactant | thionyl chloride | 68 mmol, 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2,4-thiazolidinedione sodium salt | 60 mmol, 8.36 g | [Na].S1C(NC(C1)=O)=O
reactant | sodium iodide | 25 mmol, 3.75 g | [I-].[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[2-(imidazo[1,2-a]pyridin-5-yl)ethyl]thiazolidine-2,4-dione | N=1C=CN2C1C=CC=C2CCN2C(SCC2=O)=O | C12H11N3O2S
